US04193905
(b) 1,3-Diphenyl-1,3-propanediamine
111 g (0.5 mol) of 3,5-diphenyl-2-pyrazoline are hydrogenated with 10 g of freshly prepared Raney nickel in 400 ml of methanol saturated with NH3 for 14 hours at 80° C./100 atmospheres. The catalyst is filtered off and the solvent is removed in a rotary evaporator. Distillation under a high vacuum gives 102 g=90% of theory of a colourless oil1/2.

reactant | 3,5-diphenyl-2-pyrazoline | 0.5 mol, 111 g | C1(=CC=CC=C1)C1=NNC(C1)C1=CC=CC=C1 | C15H14N2
reactant | NH3 | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 400 ml | CO | CH4O
product | 1,3-Diphenyl-1,3-propanediamine | C1(=CC=CC=C1)C(CC(N)C1=CC=CC=C1)N | C15H18N2
